US08580785B2
a) Preparation of 5-Oxo-2-trifluoromethyl-5,6,7,8-tetrahydro-quinoline-7-carboxylic acid methyl ester
A solution of 3,5-Dioxo-cyclohexanecarboxylic acid methyl ester (3.6 g, 21.16 mmol, preparation as in Journal of the Chemical Society, Perkin Transactions 1 (1976), (13), 1382-4), (Z)-4-Amino-1,1,1-trifluoro-but-3-en-2-one (2.94 g, 21.16 mmol, prepared as in EP 744400 (1996)), trifluoroacetic acid (1.21 g, 10.58 mmol), and ammonium trifluoroacetate (1.39 g, 10.58 mmol) in toluene (50 ml) are heated at reflux temperature in a Dean-Stark apparatus. After reaction completion, the reaction mixture is cooled, diluted with ethyl acetate and then washed successively with saturated aqueous sodium bicarbonate and water. The organic phase is dried over anhydrous sodium sulphate, filtered, and concentrated in vacuo. The residue is purified by flash chromatography, eluting with 4:1 hexane to give the title compound (1.5 g, 68%) as white crystals.

reactant | 3,5-Dioxo-cyclohexanecarboxylic acid methyl ester | COC(=O)C1CC(CC(C1)=O)=O | C8H10O4
reactant | (Z)-4-Amino-1,1,1-trifluoro-but-3-en-2-one | 21.16 mmol, 2.94 g | N\C=C/C(C(F)(F)F)=O | C4H4F3NO
reactant | trifluoroacetic acid | 10.58 mmol, 1.21 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonium trifluoroacetate | 10.58 mmol, 1.39 g | FC(C(=O)[O-])(F)F.[NH4+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Oxo-2-trifluoromethyl-5,6,7,8-tetrahydro-quinoline-7-carboxylic acid methyl ester | 1.5 g, 68% | COC(=O)C1CC(C=2C=CC(=NC2C1)C(F)(F)F)=O | C12H10F3NO3
